US07410966B2
5-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)-N,N-diethyl-1,3-thiazol-2-amine
5-Bromopyridine-2,3-diamine (0.1 g, 0.53 mmol) was dissolved in NMP (0.5 ml) and heated to 170° C. 2-(Diethylamino)-1,3-thiazole-5-carbaldehyde (0.098 g, 0.53 mmol) dissolved in nitrobenzene (1.0 ml) was added slowly (20 min). After 2 h, the reaction mixture was diluted with CH3CN/water and purified by HPLC-C18, giving the title product (0.01 g, 6%).

reactant | 5-Bromopyridine-2,3-diamine | 0.53 mmol, 0.1 g | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | 2-(Diethylamino)-1,3-thiazole-5-carbaldehyde | 0.53 mmol, 0.098 g | C(C)N(C=1SC(=CN1)C=O)CC | C8H12N2OS
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
solvent | nitrobenzene | 1.0 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | CH3CN water | CC#N.O
product | 5-(6-Bromo-3H-imidazo[4,5-b]pyridin-2-yl)-N,N-diethyl-1,3-thiazol-2-amine | 0.01 g, 6% | BrC=1C=C2C(=NC1)NC(=N2)C2=CN=C(S2)N(CC)CC | C13H14BrN5S
